US05102667
N,N'-Carbonyldiimidazole (1.13 g) is added to a solution of 2-(2,6-difluorophenyl)acetic acid (1.2 g) in dry dichloromethane (30 cc), cooled to +5° C. The mixture is stirred for 45 minutes at +5° C. and a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (2.3 g) and triethylamine (0.98 cc) in dichloromethane (40 cc) is then added. The reaction mixture is stirred at 20° C. for 16 hours, then washed with distilled water (2×50 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from ethyl acetate (10 cc). The crystals obtained are drained, washed with isopropyl ether (10 cc) and dried. (3aRS,7aRS)-2-[(2,6-difluorophenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone (2.1 g) melting at 218° C. is obtained.

reactant | 2-(2,6-difluorophenyl)acetic acid | 1.2 g | FC1=C(C(=CC=C1)F)CC(=O)O | C8H6F2O2
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 2.3 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 0.98 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 40 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-2-[(2,6-difluorophenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone | 2.1 g | FC1=C(C(=CC=C1)F)CC(=O)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H25F2NO2
